US08030302B2
5-(4-Bromo-2-fluorophenoxy)-6-fluoro-1H-indazole
To a suspension of 4-(4-bromo-2-fluorophenoxy)-5-fluoro-2-methylaniline (5.2 g, 16.6 mmol) in water (100 mL) is added fluoroboric acid (6.06 g, 33.1 mmol) at RT. The solution is cooled to 0° C. and NaNO2 (1.71 g, 24.8 mmol) in water (2 mL) is added. The reaction is stirred at 0° C. for 40 min. CHCl3 (200 mL) is added. The organic phase is separated, dried over Na2SO4, and filtered. To the filtrate is added KOAc (7.31 g, 74.5 mmol) and 18-crown-6-ether (0.218 g, 0.82 mmol). The reaction is stirred at RT for 1 hour. The reaction mixture is washed with saturated aqueous sodium chloride, dried over Na2SO4, filtered and evaporated. The residue is washed with DCM and filtered to offer the desired product as a light yellow solid. The filtrate is purified by chromatography eluting with DCM then EtOAc:hexane (1:1) to give additional desired product. Both portions of the solid are combined to offer the desired product (3.2 g, 59% yield). MS (m/z): 324.8 (M+H).

reactant | 4-(4-bromo-2-fluorophenoxy)-5-fluoro-2-methylaniline | 16.6 mmol, 5.2 g | BrC1=CC(=C(OC2=CC(=C(N)C=C2F)C)C=C1)F | C13H10BrF2NO
reactant | fluoroboric acid | 33.1 mmol, 6.06 g | F[B-](F)(F)F.[H+]
reactant | NaNO2 | 24.8 mmol, 1.71 g | N(=O)[O-].[Na+]
reactant | KOAc | 74.5 mmol, 7.31 g | CC(=O)[O-].[K+]
reactant | 18-crown-6-ether | 0.82 mmol, 0.218 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | 100 mL | O | H2O
solvent | water | 2 mL | O | H2O
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-Bromo-2-fluorophenoxy)-6-fluoro-1H-indazole | BrC1=CC(=C(OC=2C=C3C=NNC3=CC2F)C=C1)F | C13H7BrF2N2O
